US05438064
8-Methoxy-N-(1-methyl-4-piperidinyl)-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxamide was prepared by coupling 8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid and commercially available 1-methyl-4-(methylamino)piperidine as described for Example 17, Step 5: mp 230°-232 ° C.; 1H NMR (Me2SO-d6, 400 MHz), 3:1 mixture of amide rotamers, a:b) δ 9.09 (s, 1Ha), 8.84 (s, 1Hb), 8.58 (s, 1Hb), 8.51 (s, 1Ha), 7.98 (d, J=7.9 Hz, 1Ha), 7.93 (d, J=7.9 Hz, 1Hb), 7.78 (d, J=8.7 Hz, 2Hb), 7.71 (d, J=8.7 Hz, 2Ha), 7.65 (d, J=8.3 Hz, 1 H), 7.51 (t, J= 8.5 Hz, 1 H), 7.43 (m, 5Hb), 7.30 (m, 5Ha), 7.24 (d, J=7.5 Hz, 1 H), 6.91 (d, J=8.7 Hz, 2Ha), 6.77 (d, J=8.7 Hz, 2Hb), 3.96 (s, 3 H), 3.74 (m, 2 H), 3.46 (s, 2 H), 3.32 (b, 2 H), 2.80 (d, J=11.6 Hz, 4Ha), 2.69 (s, 3Hb), 2.64 (d, J=12.2 Hz, 4Hb), 2.58 (s, 3Ha), 2.06 (s, 3Ha), 2.00 (t, J=13.9 Hz, 2 H), 1.97 (s, 3Hb), 1.72 (m, 4 H), 1.56-1.59 (m, 4 H).

reactant | 8-methoxy-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxylic acid | COC=1C=CC=C2C(=C(C=NC12)C(=O)O)NC1=CC=C(C=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C30H30N4O4
reactant | 1-methyl-4-(methylamino)piperidine | CN1CCC(CC1)NC | C7H16N2
product | 8-Methoxy-N-(1-methyl-4-piperidinyl)-4-[[4-[[[1-(phenylmethyl)-4-piperidinyl]amino]carbonyl]phenyl]amino]-3-quinolinecarboxamide | COC=1C=CC=C2C(=C(C=NC12)C(=O)NC1CCN(CC1)C)NC1=CC=C(C=C1)C(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C36H42N6O3
